US05840751
To a 50 mL reaction flask was added 1.2 mmol of 5-(3,6-dihydro-4-hydroxy-6-oxo-2-phenyl-2H-pyran-2-yl)pentanoic acid (±), 2.4 mmol of 4-methylmorpholine, and 10 mL of CH2Cl2. The reaction was cooled to 0° C. and 2.4 mmol of methyl chloroformate in 3 mL of CH2Cl2 was added. The reaction was stirrred at 0° C. for 2 hours. Ammonia was bubbled into the vessel for 10-15 minutes and the reaction allowed to stir for 30 minutes at 0° C. The reaction was poured into ethyl acetate and 1N HCl, the aqueous layer extracted with ethyl acetate, dried over MgSO4, and concentrated. The crude solid was triturated using CH2Cl2 to afford 5-(3,6-dihydro-4-hydroxy-6-oxo-2-phenyl-2H-pyran-2-yl)pentanoic acid amide (±) as a solid (m.p. 173°-174° C.). 1H NMR (DMSO-d6) δ 0.8-1.0 (m, 1 H), 1.1-1.3 (m, 1 H), 1.3-1.5 (m, 2 H), 1.8-2.0 (m, 4 H), 2.9 (ABq, 2 H), 4.8 (s, 1 H), 6.6 (s, 1 H), 7.2 (s, 1 H), 7.2-7.5 (m, 5 H), 11.4 (s, 1 H).

reactant | 5-(3,6-dihydro-4-hydroxy-6-oxo-2-phenyl-2H-pyran-2-yl)pentanoic acid | 1.2 mmol | OC=1CC(OC(C1)=O)(C1=CC=CC=C1)CCCCC(=O)O | C16H18O5
reactant | 4-methylmorpholine | 2.4 mmol | CN1CCOCC1 | C5H11NO
reactant | methyl chloroformate | 2.4 mmol | ClC(=O)OC | C2H3ClO2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(3,6-dihydro-4-hydroxy-6-oxo-2-phenyl-2H-pyran-2-yl)pentanoic acid amide | OC=1CC(OC(C1)=O)(C1=CC=CC=C1)CCCCC(=O)N | C16H19NO4
